US06552017B1
To a solution of diethyl 2-methyl-6b,9,10,10a-tetrahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-3,8(2H,7H)-dicarboxylate (40 mg, 0.1 mmol) in DMF (10 mL) at 0° C. was added NBS (20 mg, 0.11 mmol) and stirred at 0° C. for 2 hours. The solution was diluted with water (10 mL), and extracted with EtOAc (2×20 mL). The combined extracts were dried over magnesium sulfate, concentrated, and purified by flash chromatography to afford diethyl 5-bromo-2-methyl-6b,9,10,10a-tetrahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-3,8(2H,7H)-dicarboxylate (40 mg, 88%) as a clear oil. MS [M+H]+454.

reactant | diethyl 2-methyl-6b,9,10,10a-tetrahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-3,8(2H,7H)-dicarboxylate | 0.1 mmol, 40 mg | CC1N(C=2C=CC=C3C2N(C1)C1C3CN(CC1)C(=O)OCC)C(=O)OCC | C20H27N3O4
reactant | NBS | 0.11 mmol, 20 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | diethyl 5-bromo-2-methyl-6b,9,10,10a-tetrahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-3,8(2H,7H)-dicarboxylate | 40 mg, 88% | BrC=1C=C2C=3N(CC(N(C3C1)C(=O)OCC)C)C1C2CN(CC1)C(=O)OCC | C20H26BrN3O4
